US04898871
Sodium hydride (0.25 g) is added in small portions at a temperature in the region of 0° C. to a solution, maintained under an argon atmosphere, of 3-hydroxy-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone (3.1 g) in anhydrous dimethylformamide (50 cc). The suspension obtained is stirred for 45 minutes at a temperature in the region of 0° C., and N,N-dimethyl-2chloroacetamide (1.3 g) is then added. The reaction mixture is heated with stirring to a temperature of 70° C. for 3 hours, then cooled to a temperature in the region of 10° C., poured into distilled water (200 cc) and extracted with dichloromethane (3×70 cc). The organic phases are combined, washed with distilled water (2×40 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in ethyl acetate, N,N-dimethyl-2-[2-(7-methoxy-1,8-naphthyridin-2-yl)- 3-oxo-1 -isoindolinyloxy]acetamide (2 g), m.p. 166° C., is obtained.

reactant | Sodium hydride | 0.25 g | [H-].[Na+]
reactant | 3-hydroxy-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone | 3.1 g | OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC | C17H13N3O3
reactant | N,N-dimethyl-2chloroacetamide | 1.3 g | CN(C(CCl)=O)C | C4H8ClNO
solvent | dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
product | N,N-dimethyl-2-[2-(7-methoxy-1,8-naphthyridin-2-yl)- 3-oxo-1 -isoindolinyloxy]acetamide | 2 g | CN(C(COC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC)=O)C | C21H20N4O4
